US05080905
10-amino-5-methyl-5,6-dihydro-11H-dibenzo(b,e)azepine-6,11-dione
To 5 g 10-amino-5,6-dihydro-11H-dibenzo(b,e)azepine-6,11-dione in 25 ml dimethylformamide are added 0.8 g 60% sodium hydride in mineral oil and then 1.5 ml methyl iodide. After leaving for 24 hours at ambient temperature, with stirring, the mixture is poured into water, filtered and dried: melting point 171°-3° C. (water).

reactant | 10-amino-5,6-dihydro-11H-dibenzo(b,e)azepine-6,11-dione | 5 g | NC1=CC=CC2=C1C(C1=C(NC2=O)C=CC=C1)=O | C14H10N2O2
reactant | sodium hydride | 0.8 g | [H-].[Na+]
reactant | methyl iodide | 1.5 ml | CI | CH3I
reactant | water | O | H2O
solvent | dimethylformamide | 25 ml | CN(C=O)C | C3H7NO
product | 10-amino-5-methyl-5,6-dihydro-11H-dibenzo(b,e)azepine-6,11-dione | NC1=CC=CC2=C1C(C1=C(N(C2=O)C)C=CC=C1)=O | C15H12N2O2
